US06362203B1
In a mixture of 4 mL of a 25% aqueous solution of potassium hydroxide and 5 mL of ethylene glycol was dissolved 350 mg (0.66 mmol) of methyl 4-(4-hydroxy-4-(2-(2-acetoxyethoxy)phenyl)piperidino)-2,2-diphenylbutyrate. The resulting solution was stirred at 130° C. for 2 hours. Water was added to the reaction mixture, followed by neutralization with hydrochloric acid under ice cooling. The crystals thus precipitated were collected by filtration and dried, whereby 230 mg (yield: 73.4%) of 4-(4-hydroxy-4-(2-(2-hydroxyethoxy)phenyl)piperidino)-2,2-diphenylbutyric acid was obtained.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethylene glycol | 5 mL | C(CO)O | C2H6O2
reactant | methyl 4-(4-hydroxy-4-(2-(2-acetoxyethoxy)phenyl)piperidino)-2,2-diphenylbutyrate | 0.66 mmol, 350 mg | OC1(CCN(CC1)CCC(C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)OCCOC(C)=O | C32H37NO6
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
product | 4-(4-hydroxy-4-(2-(2-hydroxyethoxy)phenyl)piperidino)-2,2-diphenylbutyric acid | 230 mg, yield: 73.4% | OC1(CCN(CC1)CCC(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)OCCO | C29H33NO5
